US08106064B2
[3-(tert-Butyl-dimethyl-silanyloxymethyl)-5-methyl-phenyl]-acetonitrile:
To a stirred solution of [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-methyl-phenyl]-methanol (11.1 g, 41.67 mmol) in dichloromethane (80 ml) at 0° C. (ice bath), was added triethylamine (8.78 ml, 62.5 mmol) followed by methanesulfonyl chloride (3.87 ml, 50 mmol). After stirring for 2 hr, the reaction mixture was washed with aqueous saturated sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The crude product was then dissolved in anhydrous DMF (80 ml) and sodium cyanide (6.28 g, 128 mmol) was added into the mixture. The mixture was stirred in an oil bath (60° C.) for 2 hr. After cooling to room temperature, the mixture was partitioned between ether and water. The ether layer was taken, washed with water twice, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA: hexanes (from 1:20 to 1:10)) to afford 8.36 g (73%) of a white solid. m.p. 52-54° C.; 1H NMR (200 MHz, CDCl3) δ 0.12 (6H, s), 0.95 (9H, s), 4.2.35 (3H, s), 3.71 (2H, s), 4.71 (2H, s), 7.03 (1H, s), 7.08 (2H, s).

reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-5-methyl-phenyl]-methanol | 41.67 mmol, 11.1 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=C(C1)C)CO)(C)C | C15H26O2Si
reactant | triethylamine | 62.5 mmol, 8.78 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 50 mmol, 3.87 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium cyanide | 128 mmol, 6.28 g | [C-]#N.[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | [3-(tert-Butyl-dimethyl-silanyloxymethyl)-5-methyl-phenyl]-acetonitrile | 8.36 g, 73% | C(C)(C)(C)[SiH2]OC(C=1C=C(C=C(C1)C)CC#N)(C)C | C16H25NOSi
